US07173023B2
In a dried flask under an inert atmosphere, 70 mg (0.25 mmol) of 8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one were dissolved in 5 ml of tetrahydrofurane, and the solution cooled to 0° C. Thereupon, 14 mg (0.3 mmol) of sodium hydride (50% in oil) were added and stirring continued at 0° C. for 15 min. Finally, 17 μl (0.3 mmol) of methyliodide were added. The reaction mixture was left to warm to RT and stirring continued for 90 min. For completion of the reaction, the mixture was heated to 40° C. during 2 h. For the working-up, the reaction mixture was evaporated under reduced pressure. The residue was dissolved in 10 ml of ethylacetate, the solution extracted with 4 ml of water, then dried over sodium sulfate and evaporated under reduced pressure. For purification, the crude material obtained was chromatographed on silica gel using a 2:1-mixture of heptane and ethylacetate as the eluent. There were obtained 51 mg (69% of theory) of 8-(3-fluoro-benzyloxy)-3-methyl-1,3-dihydro-benzo[d]azepin-2-one as a yellowish solid; MS: m/e=297 (M)+.

reactant | 8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one | 0.25 mmol, 70 mg | FC=1C=C(COC=2C=CC3=C(CC(NC=C3)=O)C2)C=CC1 | C17H14FNO2
reactant | sodium hydride | 0.3 mmol, 14 mg | [H-].[Na+]
reactant | methyliodide | 0.3 mmol, 17 μl | CI | CH3I
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | 8-(3-fluoro-benzyloxy)-3-methyl-1,3-dihydro-benzo[d]azepin-2-one | 51 mg, 69% | FC=1C=C(COC=2C=CC3=C(CC(N(C=C3)C)=O)C2)C=CC1 | C18H16FNO2
